US07666879B2
B. 1-[5-(7-Pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-pyridin-2-yl]-3-(m-trifluoromethyl-phenyl)-urea
To a solution of 1-(5-bromopyridin-2-yl)-3-(m-trifluoromethylphenyl)-urea (0.520 g, 1.44 mmol, 1.0 eq.) in dioxane (12 mL), add bis(pinacolato)diboron (0.410 g, 1.59 mmol, 1.1 eq.), tricyclohexylphosphine (0.048 g, 12 mol %), potassium acetate (0.211 g, 1.5 eq.), and tris(dibenzylidineacetone)dipalladium (0) (0.066 g, 5 mmol %). Deoxygenate the reaction mixture and stir under nitrogen at 80° C. for approximately 16 h and cool to room temperature. Add 3-iodo-7-pyridin-4-yl-imidazo[1,2-a]pyridine (0.460 g, 1.44 mmol, 1.0 eq.), sodium carbonate solution (2 M, 3 mL) and tetralis(triphenylphosphine)palladium (0) (0.083 g, 5 mmol %). Deoxygenate the reaction mixture and stir at 80° C. for 6 hours, cool, then purify on a SCX cartridge (Varian) as in Example 115. Concentrate SCX-eluted materials and purify via silica gel flash chromatography employing a 0-4% gradient of methanol in dichloromethane to afford 0.450 g (0.99 mmol, 69%) of the title compound. MS (ES), m/z 475 (M+1).

reactant | 1-(5-bromopyridin-2-yl)-3-(m-trifluoromethylphenyl)-urea | 1.44 mmol, 0.520 g, 1.0 eq. | BrC=1C=CC(=NC1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C13H9BrF3N3O
reactant | bis(pinacolato)diboron | 1.59 mmol, 0.410 g, 1.1 eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 0.048 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 0.211 g, 1.5 eq. | C(C)(=O)[O-].[K+]
reactant | 3-iodo-7-pyridin-4-yl-imidazo[1,2-a]pyridine | 1.44 mmol, 0.460 g, 1.0 eq. | IC1=CN=C2N1C=CC(=C2)C2=CC=NC=C2 | C12H8IN3
reactant | sodium carbonate | 2 M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | 1-[5-(7-Pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-pyridin-2-yl]-3-(m-trifluoromethyl-phenyl)-urea | 0.99 mmol, 0.450 g, 69% | N1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C=2C=CC(=NC2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F | C25H17F3N6O
